US04466970
1-[3-[4-(Pyrrolidinomethyl)pyrid-2-yloxy]prop-1-ylamino]-2-aminocyclobut-1-ene-3,4-dione
By the methods of Example 1, 1-amino-2-methoxycyclobut-1-ene-3,4-dione and 3-[4-(pyrrolidinomethyl)pyrid-2-yloxy]prop-1-ylamine are reacted to form the title product.

reactant | 1-amino-2-methoxycyclobut-1-ene-3,4-dione | NC1=C(C(C1=O)=O)OC | C5H5NO3
reactant | 3-[4-(pyrrolidinomethyl)pyrid-2-yloxy]prop-1-ylamine | N1(CCCC1)CC1=CC(=NC=C1)OCCCN | C13H21N3O
product | 1-[3-[4-(Pyrrolidinomethyl)pyrid-2-yloxy]prop-1-ylamino]-2-aminocyclobut-1-ene-3,4-dione | N1(CCCC1)CC1=CC(=NC=C1)OCCCNC1=C(C(C1=O)=O)N | C17H22N4O3
